US03969409
2.15 Parts of 3-anilino-5,5-dimethyl-2-cyclohexen-1-one is dissolved in 10 volume parts of methanol under heating and, then, to the resulting solution are added 0.9 part of a 37 weight % aqueous solution of formaldehyde, 0.87 part of morpholine and 1.6 part of 20 weight % hydrochloric acid. The mixture is allowed to stand at room temperature for 1 hour, after which time the methanol is distilled off under reduced pressure, whereupon yellow crystals separate. The crystals are collected by filtration, washed with isopropyl ether and recrystallized from acetone. The procedure yields colorless scales of 3-anilino-5,5-dimethyl-2-morpholinomethyl-2-cyclohexen-1-one hydrochloride. Melting point: 172°-173°C Elementary analysis: C19H27N2O2Cl.H2O Calcd. C, 61.85; H, 7.92; N, 7.59 Found C, 61.88; H, 7.87; N, 7.67.

reactant | 3-anilino-5,5-dimethyl-2-cyclohexen-1-one | N(C1=CC=CC=C1)C1=CC(CC(C1)(C)C)=O | C14H17NO
reactant | formaldehyde | C=O | CH2O
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-anilino-5,5-dimethyl-2-morpholinomethyl-2-cyclohexen-1-one hydrochloride | Cl.N(C1=CC=CC=C1)C1=C(C(CC(C1)(C)C)=O)CN1CCOCC1 | InChI=1S/C19H26N2O2.ClH/c1-19(2)12-17(20-15-6-4-3-5-7-15)16(18(22)13-19)14-21-8-10-23-11-9-21;/h3-7,20H,8-14H2,1-2H3;1H
